US04769472
(3-Bromothien-2-yl) (3-methoxyphenyl)methanone hydrazone
A mixture of (3-bromothien-2-yl) (3-methoxyphenyl)methanone (10.0 g), hydrazine hydrate (10 ml, above 99% purity), and 75 ml of ethylene glycol was heated at 130° C. for three hours. The reaction mixture was then quenched with water and extracted with ether. The ether solution was washed three times with water and dried over anhydrous magnesium sulfate. The ether was then evaporated to give 5.5 g of an oil. This was then column chromatographed on a silica gel column packed in hexane using 15% ether/hexane as an eluent. The solid from the column was then recrystallized from ether/hexane.

reactant | (3-bromothien-2-yl) (3-methoxyphenyl)methanone | 10.0 g | BrC1=C(SC=C1)C(=O)C1=CC(=CC=C1)OC | C12H9BrO2S
reactant | hydrazine hydrate | 10 ml | O.NN
solvent | ethylene glycol | 75 ml | C(CO)O | C2H6O2
product | (3-Bromothien-2-yl) (3-methoxyphenyl)methanone hydrazone | 5.5 g | BrC1=C(SC=C1)C(=NN)C1=CC(=CC=C1)OC | C12H11BrN2OS
